US07528158B2
To a solution of 1-isobutyl-5-nitro-1,2-dihydro-indazol-3-one (0.9 g) in MeOH (50 mL) was added Pd/C(10%) catalyst (0.3 g) and the reaction mixture was stirred for 1 hour at 40° C. under a hydrogen atmosphere using a balloon. After this time the reaction mixture was filtered through Celite® which was washed with more EtOAc. The combined organic solution was evaporated in vacuo for afford the desired 5-amino-1-isobutyl-1,2-dihydro-indazol-3-one (0.6 g) which was taken into the next reaction without further purification. MS (ESI+): 206.1 ([M+H]+).

reactant | 1-isobutyl-5-nitro-1,2-dihydro-indazol-3-one | 0.9 g | C(C(C)C)N1NC(C2=CC(=CC=C12)[N+](=O)[O-])=O | C11H13N3O3
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 5-amino-1-isobutyl-1,2-dihydro-indazol-3-one | 0.6 g | NC=1C=C2C(NN(C2=CC1)CC(C)C)=O | C11H15N3O
